US08492548B2
To a solution of (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate (diastereomer 1 of I2) (75 mg, 0.22 mmol) in acetonitrile (5 ml), was added 2-bromo-1-(naphthalen-2-yl)ethanone (55.5 mg, 0.22 mmol) and the reaction was stirred at 100° C. for 70 minutes under microwave irradiation (UPLC-MS: complete conversion). The solvent was evaporated and the crude was triturated with i-Pr2O-EtOAc (9/1) to obtain (R)-1-(2-(naphthalen-2-yl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide (121.9 mg, 93% yield).

reactant | (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate | 0.22 mmol, 75 mg | C1(=CC=CC=C1)[C@H](C(=O)O[C@H]1CN2CCC1CC2)NC2=CC=CC=C2 | C21H24N2O2
reactant | 2-bromo-1-(naphthalen-2-yl)ethanone | 0.22 mmol, 55.5 mg | BrCC(=O)C1=CC2=CC=CC=C2C=C1 | C12H9BrO
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | (R)-1-(2-(naphthalen-2-yl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide | 121.9 mg, 93% yield | [Br-].C1=C(C=CC2=CC=CC=C12)C(C[N+]12C[C@@H](C(CC1)CC2)OC([C@H](NC2=CC=CC=C2)C2=CC=CC=C2)=O)=O | InChI=1S/C33H33N2O3.BrH/c36-30(28-16-15-24-9-7-8-12-27(24)21-28)22-35-19-17-25(18-20-35)31(23-35)38-33(37)32(26-10-3-1-4-11-26)34-29-13-5-2-6-14-29;/h1-16,21,25,31-32,34H,17-20,22-23H2;1H/q+1;/p-1/t25?,31-,32+,35?;/m0./s1
